### PR TITLE
chore: rename `NormalSpace` to `T4Space`

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Separation.lean [hunk 1]
```diff
@@ -1734,21 +1734,21 @@ end T3
 
 section Normality
 
--- todo: rename this to `T4Space`, introduce `NormalSpace` without `T1Space` assumption
+-- todo: rename this to `T4Space`, introduce `T4Space` without `T1Space` assumption
```
Comment (sgouezel) [inline Mathlib/Topology/Separation.lean:1737]: can you update the todo?

File: Mathlib/Topology/Separation.lean [hunk 2]
```diff
@@ -1734,21 +1734,21 @@ end T3
...
 /-- A T₄ space, also known as a normal space (although this condition sometimes
   omits T₂), is one in which for every pair of disjoint closed sets `C` and `D`,
   there exist disjoint open sets containing `C` and `D` respectively. -/
-class NormalSpace (α : Type u) [TopologicalSpace α] extends T1Space α : Prop where
+class T4Space (α : Type u) [TopologicalSpace α] extends T1Space α : Prop where
   /-- Two disjoint sets in a normal space admit disjoint neighbourhoods. -/
```
Comment (sgouezel) [inline Mathlib/Topology/Separation.lean:1742]:
```suggestion
  /-- Two disjoint closed sets in a T₄ space admit disjoint neighbourhoods. -/
```

File: Mathlib/Topology/Separation.lean [hunk 3]
```diff
@@ -1800,7 +1800,7 @@ variable (α)
 
 /-- A T₃ topological space with second countable topology is a normal space.
 This lemma is not an instance to avoid a loop. -/
-theorem normalSpaceOfT3SecondCountable [SecondCountableTopology α] [T3Space α] : NormalSpace α := by
+theorem t4SpaceOfT3SecondCountable [SecondCountableTopology α] [T3Space α] : T4Space α := by
```
Comment (sgouezel) [inline Mathlib/Topology/Separation.lean:1803]:
```suggestion
theorem t4Space_of_t3Space_secondCountable [SecondCountableTopology α] [T3Space α] : T4Space α := by
```
looks like the naming convention was not respected on this one.

File: Mathlib/Topology/UniformSpace/Compact.lean [hunk 4]
```diff
@@ -104,7 +104,7 @@ def uniformSpaceOfCompactT2 [TopologicalSpace γ] [CompactSpace γ] [T2Space γ]
     have diag_subset : diagonal γ ⊆ interior V := subset_interior_iff_mem_nhdsSet.2 V_in
     have x_ne_y : x ≠ y := mt (@diag_subset (x, y)) this
     -- Since γ is compact and Hausdorff, it is normal, hence T₃.
-    haveI : NormalSpace γ := normalOfCompactT2
+    haveI : T4Space γ := T4Space.of_compact_t2Space
```
Comment (sgouezel) [inline Mathlib/Topology/UniformSpace/Compact.lean:107]:
```suggestion
    have : T4Space γ := T4Space.of_compact_t2Space
```

File: Mathlib/Geometry/Manifold/Metrizable.lean [hunk 5]
```diff
@@ -26,7 +26,7 @@ theorem ManifoldWithCorners.metrizableSpace {E : Type*} [NormedAddCommGroup E] [
     (M : Type*) [TopologicalSpace M] [ChartedSpace H M] [SigmaCompactSpace M] [T2Space M] :
     MetrizableSpace M := by
   haveI := I.locallyCompactSpace; haveI := ChartedSpace.locallyCompactSpace H M
-  haveI : NormalSpace M := normal_of_paracompact_t2
+  haveI : T4Space M := .of_paracompact_t2Space
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/Metrizable.lean:29]:
```suggestion
  have : T4Space M := .of_paracompact_t2Space
```
No need for `haveI`, here and below.
